US08461181B2
A mixture of 5.51 g of N2-methyl-5-trifluoromethylpyridine-2,3-diamine, 6.10 g of 3-fluoroisonicotinic acid, 8.28 g of WSC and 58 ml of pyridine was stirred for 3 hours while heating at 120° C. After cooling down to room temperature, water was poured, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 6.77 g of 2-(3-fluoropyridin-4-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter, referred to as present active compound 36).

reactant | N2-methyl-5-trifluoromethylpyridine-2,3-diamine | 5.51 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | 3-fluoroisonicotinic acid | 6.10 g | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | WSC | 8.28 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 58 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(3-fluoropyridin-4-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 6.77 g | FC=1C=NC=CC1C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C13H8F4N4
